US08003675B2
1.9 g (50.5 mmol) of sodium borohydride was suspended in 40 ml of water. To the suspension was dropwise added, at 10 to 15° C., a THF (4 ml) solution of the above-produced 3,4-dichloroisothiazole-5-carbonyl chloride. The mixture was stirred at 15° C. for 30 minutes. Then, an aqueous citric acid solution was added to the mixture to make it weakly acidic, followed by extraction with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated. The resulting crystals were washed with hexane to obtain 3.0 g (yield: 81%) of (3,4-dichloroisothiazol-5-yl)methanol as colorless crystals (melting point: 94 to 95° C.).

reactant | sodium borohydride | 50.5 mmol, 1.9 g | [BH4-].[Na+]
reactant | THF | 4 ml | C1CCOC1 | C4H8O
reactant | 3,4-dichloroisothiazole-5-carbonyl chloride | ClC1=NSC(=C1Cl)C(=O)Cl | C4Cl3NOS
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 40 ml | O | H2O
product | (3,4-dichloroisothiazol-5-yl)methanol | 3.0 g, yield: 81% | ClC1=NSC(=C1Cl)CO | C4H3Cl2NOS
